US09371262B2
(E)-1-methoxy-8-methyl-10-pentyl-3,4,5,6,9,10-hexahydroazecin-2(1H)-one
Following the general procedure as described in Example 17, 2-(prop-1-en-2-yl)cyclohexanone (0.88 g, 6.38 mmol), hexanal O-ethyl oxime (0.99 g, 7.65 mmol), and SnCl4 (1.66 g, 6.38 mmol) in 1,2-dichloroethane (65 ml) were reacted to give the title product as a colorless liquid (1.00 g, 59% yield). E isomer>98%.

reactant | 2-(prop-1-en-2-yl)cyclohexanone | 6.38 mmol, 0.88 g | C=C(C)C1C(CCCC1)=O | C9H14O
reactant | hexanal O-ethyl oxime | 7.65 mmol, 0.99 g | C(C)ON=CCCCCC | C8H17NO
reactant | SnCl4 | 6.38 mmol, 1.66 g | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 65 ml | ClCCCl | C2H4Cl2
product | (E)-1-methoxy-8-methyl-10-pentyl-3,4,5,6,9,10-hexahydroazecin-2(1H)-one | 1.00 g, 59% yield | CON1C(CCCC\C=C(\CC1CCCCC)/C)=O | C16H29NO2
